US07786132B2
(v) 1-(2-(4-(5-(Morpholine-4-carbonyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-imidazolidin-2-one
A mixture of (5-(2-(methylsulfonyl)pyrimidin-4-yl)thiophen-2-yl)(morpholino)methanone (100 mg, 0.26 mmol), 1-(2-aminoethyl)imidazolidin-2-one (36 mg, 0.28 mmol) and triethylamine (56 mg, 0.52 mmol) in toluene (3 mL) was refluxed for 6 h. After cooling to rt, the solvent was evaporated in vacuo and then methanol (5 mL) was added. After stirring for 15 min the solid was filtered and dried to give title compound as a light yellow solid. MS (M+H)+ 403.

reactant | (5-(2-(methylsulfonyl)pyrimidin-4-yl)thiophen-2-yl)(morpholino)methanone | 0.26 mmol, 100 mg | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=C(S1)C(=O)N1CCOCC1 | C14H15N3O4S2
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 0.28 mmol, 36 mg | NCCN1C(NCC1)=O | C5H11N3O
reactant | triethylamine | 0.52 mmol, 56 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(4-(5-(Morpholine-4-carbonyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-imidazolidin-2-one | N1(CCOCC1)C(=O)C1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NCC1)=O | C18H22N6O3S
